US04188342
To o-isopropylaniline in 4 l. benzene (0.74 mol, 100 g) was added 131.7 g (0.74 mol) NBS all at once. There was an exotherm to 35° C. Material was stirred two hours, then let stand overnight. The volume was reduced by three-quarters, and solid removed by filtration. Benzene was then removed from the filtrate, pentane added with ice, followed by 40 ml acetic anhydride. After ca. 15 minutes, solid was filtered off, pentane solution separated from filtrate, washed with ammonia water. After evaporation of pentane, oil was distilled 83° C. (0.25 mm) to give 64.5 g of 2-bromo-6-isopropylaniline.

reactant | o-isopropylaniline | C(C)(C)C1=C(N)C=CC=C1 | C9H13N
reactant | benzene | 0.74 mol, 100 g | C1=CC=CC=C1 | C6H6
reactant | NBS | 0.74 mol, 131.7 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | 2-bromo-6-isopropylaniline | 64.5 g | BrC1=C(N)C(=CC=C1)C(C)C | C9H12BrN
